US07737157B2
Synthesis of 6-((2-(3-(dimethylamino)phenylamino)pyrimidin-4-yl)(methyl)amino)-N,2-dimethylbenzofuran-3-carboxamide (Compound 1)
6-((2-chloropyrimidin-4-yl)(methyl)amino)-N,2-dimethylbenzofuran-3-carboxamide (0.1 mmol) and 3-dimethylaminoaniline (0.1 mmol) were dissolved in 0.5 ml DMF. To this was added p-TsOH monohydrate (0.2 mmol). The reaction mixture was stirred at 60° C. for 5 hours, and subjected to extraction with EtOAc. Then water was added and the mixture was subjected to extraction with ethyl acetate. The organic layer was washed with water and brine sequentially, dried over anhydrous Na2SO4, and concentrated. The resulting residue was purified by column chromatography to provide the title product in a yield of 78%.

reactant | 6-((2-chloropyrimidin-4-yl)(methyl)amino)-N,2-dimethylbenzofuran-3-carboxamide | 0.1 mmol | ClC1=NC=CC(=N1)N(C1=CC2=C(C(=C(O2)C)C(=O)NC)C=C1)C | C16H15ClN4O2
reactant | 3-dimethylaminoaniline | 0.1 mmol | CN(C=1C=C(N)C=CC1)C | C8H12N2
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
product | 6-((2-(3-(dimethylamino)phenylamino)pyrimidin-4-yl)(methyl)amino)-N,2-dimethylbenzofuran-3-carboxamide | yield of 78% | CN(C=1C=C(C=CC1)NC1=NC=CC(=N1)N(C1=CC2=C(C(=C(O2)C)C(=O)NC)C=C1)C)C | C24H26N6O2
